US05574040
Compound No. 2, FIG. 1A: A suspension of Compound No. 11 (2-amino-4-(3,5-diacetylphenyl)amino-6-methylpyrimidine) (0.284 g), was suspended in 1:1 acetonitrile-tetrahydrofuran was treated with methyl iodide (2 mL) and heated at 40°-45° C. under a reflux condenser for 18 hr. Cooling and filtration gave 0.35 g of 2-amino-4-(3,5-diacetylphenyl)amino-1,6-dimethylpyrimidinium iodide (Compound No. 2), mp 292° C.

reactant | 2-amino-4-(3,5-diacetylphenyl)amino-6-methylpyrimidine | NC1=NC(=CC(=N1)NC1=CC(=CC(=C1)C(C)=O)C(C)=O)C | C15H16N4O2
reactant | methyl iodide | 2 mL | CI | CH3I
solvent | acetonitrile tetrahydrofuran | C(C)#N.O1CCCC1
product | 2-amino-4-(3,5-diacetylphenyl)amino-1,6-dimethylpyrimidinium iodide | 0.35 g | [I-].NC1=[N+](C(=CC(=N1)NC1=CC(=CC(=C1)C(C)=O)C(C)=O)C)C | InChI=1S/C16H18N4O2.HI/c1-9-5-15(19-16(17)20(9)4)18-14-7-12(10(2)21)6-13(8-14)11(3)22;/h5-8H,1-4H3,(H2,17,18,19);1H
